US06492403B1
160 mg (0.647 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate (Maybridge Chemical Co. LTD., Cornwall, U.K.) was reacted with 2-bromo-2′-methyl acetophenone (0.711 mmol, 152 mg) in a manner similar to Example 22, step (a) to afford 124 mg (53% yield) of methyl 4-[4-(2-methylphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate.

reactant | methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate | 0.647 mmol, 160 mg | NC(C=1C=C(SC1C)C(=S)OC)=S | C8H9NOS3
reactant | 2-bromo-2′-methyl acetophenone | 0.711 mmol, 152 mg | BrCC(=O)C1=C(C=CC=C1)C | C9H9BrO
product | methyl 4-[4-(2-methylphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate | 124 mg, 53% yield | CC1=C(C=CC=C1)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC | C17H15NOS3
